US04217357
To a well-stirred solution consisting of 3-(imidazol-1-ylmethyl)-5-methoxyindole (0.30 g.) dissolved in dry methylene chloride (30 ml.) at -70° C., there was added boron tribromide (0.38 ml.) in a dropwise manner. The resulting mixture was allowed to warm up and was then stirred at 20° C. for a period of five hours. Water (50 ml.) was then added to the spent reaction mixture, and the resulting aqueous layer was subsequently separated and washed with methylene chloride (using two-20 ml. portions). The washed aqueous layer was then made basic with solid sodium bicarbonate and evaporated to dryness. The residue obtained in this manner was next treated with boiling ethyl acetate (200 ml.), and the resulting organic solution was separated from the mixture by decantation and then evaporated to give a solid. Crystallization of the latter material from isopropanol/petroleum ether (b.p. 80°-100° C.) then gave pure 5-hydroxy-3-(imidazol-1-ylmethyl)-indole (yield, 0.10 g.), m.p. 169°-170° C.

reactant | 3-(imidazol-1-ylmethyl)-5-methoxyindole | 0.30 g | N1(C=NC=C1)CC1=CNC2=CC=C(C=C12)OC | C13H13N3O
reactant | boron tribromide | 0.38 ml | B(Br)(Br)Br | BBr3
reactant | Water | 50 ml | O | H2O
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 5-hydroxy-3-(imidazol-1-ylmethyl)-indole | 0.10 g | OC=1C=C2C(=CNC2=CC1)CN1C=NC=C1 | C12H11N3O
